US07566735B2
N-methyl-N-({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)-1-pyrrolidinecarboxamide
A mixture of N-[(4-bromophenyl)methyl]-N-methyl-1-pyrrolidinecarboxamide (250 mg, crude), 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole (152 mg, 0.8 mmol), N,N-dimethylglycine (20 mol %, 16.5 mg, 0.16 mmol), copper (I) iodide (10 mol %, 15 mg, 0.08 mmol) and potassium carbonate (1.6 mmol, 221 mg) in dimethylsulfoxide (4 ml) was stirred at 190° C. in a microwave reactor for 30 minutes. The reaction mix was treated with fresh N,N-dimethylglycine and copper (I) iodide and heated at 190° C. in a microwave reactor for a further 30 minutes. The reaction mix was partitioned between dichloromethane (5 ml) and water (5 ml). The organic layer was added to a 5 g isolute silica sep-pak column and eluted with ethyl acetate. The solvent was removed under reduced pressure and the residue purified by mass directed auto-prep (MDAP) to give the title compound as a brown oil (12 mg, 4%).

reactant | N-[(4-bromophenyl)methyl]-N-methyl-1-pyrrolidinecarboxamide | 250 mg | BrC1=CC=C(C=C1)CN(C(=O)N1CCCC1)C | C13H17BrN2O
reactant | 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | 0.8 mmol, 152 mg | FC(C1=NNC=2CCCCC12)(F)F | C8H9F3N2
reactant | N,N-dimethylglycine | 0.16 mmol, 16.5 mg | CN(CC(=O)O)C | C4H9NO2
reactant | potassium carbonate | 1.6 mmol, 221 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 4 ml | CS(=O)C | C2H6OS
catalyst | copper (I) iodide | 0.08 mmol, 15 mg | [Cu]I
product | N-methyl-N-({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)-1-pyrrolidinecarboxamide | 12 mg, 4% | CN(C(=O)N1CCCC1)CC1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F | C21H25F3N4O
